US07750003B2
1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(propan-2-ylsulfanylmethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea
Isopropyl mercaptan (0.075 mL) was dissolved in acetonitrile (5 mL) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.12 mL). The reaction was allowed to stir at room temperature for 15 minutes then 1-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea (228 mg) in acetonitrile (5 mL) added. The reaction was stirred for 30 minutes then concentrated in vacuo. The residue was chromatographed on silica, eluting with 2.5% methanol in DCM, to give the desired compound (78 mg) as a gum.

reactant | Isopropyl mercaptan | 0.075 mL | C(C)(C)S | C3H8S
reactant | 1-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea | 228 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)COS(=O)(=O)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H27N5O5S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.12 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(propan-2-ylsulfanylmethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea | 78 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CSC(C)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C26H31N5O2S
